US06670494B1
The recovered cobalt hydroxide was then placed into a beaker provided with a reflux condenser and Dean Stark water trap. 29.2 grams (0.2 Mole) of lysine was added and thereafter 100 ml hexane was subsequently added and stirred and boiled at atmospheric pressure for 3 hours. In the course of reaction about 3.6-3.8 ml of water was removed from the reaction media and acquired in the Dean Stark apparatus. The reaction mixture was then cooled and filtered yielding 35 grams of cobalt lysinate in the form of a fine pink powder.

reactant | cobalt hydroxide | [OH-].[Co+2].[OH-]
reactant | lysine | 0.2 Mole, 29.2 grams | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
reactant | hexane | 100 ml | CCCCCC | C6H14
solvent | water | about 3.6-3.8 ml | O | H2O
product | cobalt lysinate | 35 grams | N[C@@H](CCCCN)C(=O)[O-].[Co+2].N[C@@H](CCCCN)C(=O)[O-] | InChI=1S/2C6H14N2O2.Co/c2*7-4-2-1-3-5(8)6(9)10;/h2*5H,1-4,7-8H2,(H,9,10);/q;;+2/p-2/t2*5-;/m00./s1
